US04011339
Repeating the procedure of Example 1 but replacing the p-thiomethylphenyl acetyl chloride with an equivalent amount of p-methoxyphenyl acetyl chloride, there is similarly obtained ethyl 4-(p-methoxyphenyl)-2-methyl-buta-2,3-dienoate, which when treated according to the procedure of Example 2, yields 4-(p-methoxyphenyl)-2-methyl-buta-2,3-dienoic acid (m.p. 105° - 108° from ether/pentane).

reactant | p-methoxyphenyl acetyl chloride | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | ethyl 4-(p-methoxyphenyl)-2-methyl-buta-2,3-dienoate | COC1=CC=C(C=C1)C=C=C(C(=O)OCC)C | C14H16O3
product | 4-(p-methoxyphenyl)-2-methyl-buta-2,3-dienoic acid | COC1=CC=C(C=C1)C=C=C(C(=O)O)C | C12H12O3
